US05679671
3-Amino-1-ethoxycarbonylmethyl-8-phenyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one
A mixture comprising 0.785 g (2.15 mmol) of 3-azido-1-ethoxycarbonylmethyl-8-phenyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one obtained in the Synthesis Example A-7, 0.05 g of 10% palladium-carbon and 20 ml of ethanol was catalytically hydrogenated at room temperature under 4 atm for 1 hour. After filtering off the catalyst, the filtrate was concentrated. Thus, 0.73 g of the title compound was obtained as a pale yellow oily product. Yield 100%.

reactant | 3-azido-1-ethoxycarbonylmethyl-8-phenyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 2.15 mmol, 0.785 g | N(=[N+]=[N-])C1C(N(C2=C(CC1)C=CC(=C2)C2=CC=CC=C2)CC(=O)OCC)=O | C20H20N4O3
catalyst | palladium-carbon | 0.05 g | [C].[Pd]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-Amino-1-ethoxycarbonylmethyl-8-phenyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.73 g, Yield 100% | NC1C(N(C2=C(CC1)C=CC(=C2)C2=CC=CC=C2)CC(=O)OCC)=O | C20H22N2O3
